US06376521B1
Benzyl 3-oxo-3-cyclohexylproionate (79k)
To prepare compound 79u, a transesterification reaction shown schematically in FIG. 10 was used. Ethyl benzoylacetate (1.92 g, 10 mmol) and ethylene glycol (0.621 g, 10 mmol) in toluene (10 mL) were heated with stirring for 24 h. The solvent was removed, and the residue was chromatographed (silica 60, petroleum ether-ethyl acetate (3:1)) to give 0.946 g of the desired product, yield: 45%. The 1HNMR data are set forth below.

reactant | Ethyl benzoylacetate | 10 mmol, 1.92 g | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
reactant | ethylene glycol | 10 mmol, 0.621 g | C(CO)O | C2H6O2
reactant | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | Benzyl 3-oxo-3-cyclohexylproionate | 0.946 g, yield: 45% | O=C(CC(=O)OCC1=CC=CC=C1)C1CCCCC1 | C16H20O3
